US04461773
250 Grams of 40% sodium dispersion in mineral oil was added to a solution of 600 g of naphthalene in 1.8 l of 1,2-dimethoxyethane ("Glyme") stirred under nitrogen and maintained at a temperature between 20° to 30° C. After all the sodium was added, the mixture was stirred 20 minutes, and then 305 g of N-(2,3-dihydroxypropyl)-4-methyl-N-phenylbenzenesulfonamide was added through a powder addition funnel while maintaining the temperature of the reaction mixture below 35° C. After all of the solid was added, the mixture was stirred one hour. Water was then added until the color of the mixture faded from dark green or black to yellow; then concentrated hydrochloric acid was added until the solution was strongly acidic. The mixture was extracted twice with toluene and then three times with hexane, was sparged with nitrogen to remove the hexane, saturated with sodium chloride and then made basic with concentrated ammonium hydroxide. The product was extracted with dichloromethane, and the extract was dried over potassium carbonate. The filtered dichloromethane was concentrated to yield 132.3 g of 3-phenylamino-1,2-propanediol, a pale yellow oil.

reactant | sodium | [Na] | Na
reactant | naphthalene | 600 g | C1=CC=CC2=CC=CC=C12 | C10H8
reactant | N-(2,3-dihydroxypropyl)-4-methyl-N-phenylbenzenesulfonamide | 305 g | OC(CN(S(=O)(=O)C1=CC=C(C=C1)C)C1=CC=CC=C1)CO | C16H19NO4S
reactant | hydrochloric acid | Cl | ClH
solvent | 1,2-dimethoxyethane | 1.8 l | COCCOC | C4H10O2
solvent | Water | O | H2O
product | 3-phenylamino-1,2-propanediol | 132.3 g | C1(=CC=CC=C1)NCC(CO)O | C9H13NO2
